* c:\fossee\esim\library\subcircuitlibrary\buffer\buffer.cir

.include NOT.sub
x1 net-_u1-pad1_ net-_x1-pad2_ net-_u1-pad3_ net-_u1-pad4_ NOT
x2 net-_x1-pad2_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ NOT
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
